US04640913
(2-Bromoethyl)phosphonic acid compound with benzeneamine (1:1)
A solution of about 50 g of diethyl-2-bromoethyl-phosphonate in about 255 ml of about 48% hydrobromic acid was kept at reflux (about 95°-100° C.) overnight. The solvent was removed under reduced pressure and the residue evaporated twice with toluene, giving a syrup. This syrup was dissolved in about 65 ml of about 99% ethanol, about 20 g of aniline was added dropwise and the solid was collected, washed with cold about 99% ethanol (at about 0° C.) and dried in vacuo, giving about 30.6 g of the desired reagent, mp 157°-158° C.

reactant | diethyl-2-bromoethyl-phosphonate | about 50 g | C(C)OP(OCC)(=O)CCBr | C6H14BrO3P
reactant | aniline | about 20 g | NC1=CC=CC=C1 | C6H7N
solvent | hydrobromic acid | about 255 ml | Br | BrH
solvent | ethanol | about 65 ml | C(C)O | C2H6O
product | (2-Bromoethyl)phosphonic acid compound with benzeneamine | about 30.6 g | C1(=CC=CC=C1)N.BrCCP(O)(O)=O | InChI=1S/C6H7N.C2H6BrO3P/c7-6-4-2-1-3-5-6;3-1-2-7(4,5)6/h1-5H,7H2;1-2H2,(H2,4,5,6)
